US06180557B2
A German patent, Ger.Offen 2,547,0310 (1977), disclosed the preparation of o-benzyl-toluenes by the reaction of o-methylbenzyl halides with substituted benzenes in the presence of Al-silicate. The 2-CH3C6H4CH2Cl was stirred with toluene and Al-silicate (25% Al2O3) at 110° C. to give 81% 2-methylbenzyltoluene. According to a Japanese patent, Jpn. Kokai Tokkyo Koho JP 59,186,937 (1984), o-benzylphenol was prepared by the liquid phase reaction of benzyl alcohol with phenol in the presence of γ-Al2O3. For example 7.5 g γ-Al2O3 was added to a mixture of 32.5 g benzyl alcohol and 47 g phenol at 190° C. under stirring to give a product containing 49.9% o-benzylphenol. A German patent, Ger. Offen DE 3,700,917 (1988), disclosed the preparation of p-substituted o-benzylphenols by benzylation of p-substituted phenols with benzylalcohol in the presence of Na—Y type zeolite. A mixture of 0.5 mole 4-ClC6H4OH, 0.1 mole C6H5CH2OH and 0.6 g of Na—Y type zeolite was heated at 200° C. for 3 hrs to give 25.4% 2-benzyl-4-chlorophenol.

reactant | 2-CH3C6H4CH2Cl | CC1=C(C=CC=C1)CCl | C8H9Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-methylbenzyltoluene | 81% | CC1=C(CC2=C(C=CC=C2)C)C=CC=C1 | C15H16
